US08071592B2
(b) 1-{2-[(3S,4R)-3-(Aminomethyl)-4-hydroxy-1-piperidinyl]ethyl}-7-fluoro-2(1H)-quinolinone
A solution of phenylmethyl ({(3S,4R)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-hydroxy-3-piperidinyl}methyl)carbamate (as prepared previously) (306 mg; 0.675 mmol) in EtOH (50 mL) was added 20% Pd(OH)2/C (70 mg). The mixture was hydrogenated at 1 atm of H2 at ambient temperature for 3 h. The crude product was filtered through Celite, washed with ethanol and concentrated under reduced pressure to obtain the product as a pale yellow oil (210 mg; 95%).

reactant | phenylmethyl ({(3S,4R)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-hydroxy-3-piperidinyl}methyl)carbamate | FC1=CC=C2C=CC(N(C2=C1)CCN1C[C@@H]([C@@H](CC1)O)CNC(OCC1=CC=CC=C1)=O)=O | C25H28FN3O4
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 70 mg | [OH-].[OH-].[Pd+2]
product | 1-{2-[(3S,4R)-3-(Aminomethyl)-4-hydroxy-1-piperidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | 210 mg, 95% | NC[C@H]1CN(CC[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)F)=O | C17H22FN3O2
